US08283353B2
4′-[(5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
A solution of 4H-1,2,4-triazol-3-amine (2.4 g) and ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate (10 g) in 1,2,4-trichlorobenzene (50 mL) was stirred at 180° C. for 6 hr. After evaporation of the solvent under reduced pressure, the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (4 g, 38%).

reactant | 4H-1,2,4-triazol-3-amine | 2.4 g | N=1N=C(NC1)N | C2H4N4
reactant | ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate | 10 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OCC)C(CCC)=O | C22H23NO3
solvent | 1,2,4-trichlorobenzene | 50 mL | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
product | 4′-[(5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 4 g, 38% | O=C1NC=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C22H19N5O
